* C:\users\matthieu\Bureau\Guitare Midi - Fablab\schema d'amplification du signal\guitare amplification.asc
V4 4.5V 0 4.5V
V1 -4.5V 0 -4.5V
V2 5V 0 5V
V5 Guitar 0 SINE(0 0.2 83) AC 0.2 0
C3 N004 Guitar 0.1µF
R4 N004 0 100k
R3 Guitar 0 47k
R13 AnalogRead N005 100k
R14 5V N005 47k
R15 N005 0 47k
C5 N005 0 10µF
XU6 N004 N002 4.5V -4.5V N003 LT1001
R11 N001 N002 1k
R12 N003 N002 100k
C4 AnalogRead N003 0.1µF
R1 0 N001 10k
.ac dec 100 1 1500
;tran 0 0.3 0.1 0.01
.lib LTC.lib
.backanno
.end
